US07795267B2
1,1-Dimethylethyl N-[2-(3,6-dihydropyridin-1(2H)-yl)ethyl]carbamate
To 1,1-dimethylethyl N-(2-oxoethyl)carbamate (2.0 g, 13 mmol) were added N,N-dimethylformamide (50 mL), tetrahydrofuran (50 mL), 1,2,3,6-tetrahydropyridine (1.2 mL, 13 mmol) and sodium triacetoxyborohydride (5.3 g, 25 mmol), and the mixture was stirred at room temperature for 14 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate to ethyl acetate:methanol=8:2) and further purified with amino silica gel column chromatography (hexane:ethyl acetate=9:1 to ethyl acetate) to obtain the title compound (1.2 g, yield 41%).

reactant | 1,1-dimethylethyl N-(2-oxoethyl)carbamate | 13 mmol, 2.0 g | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | 1,2,3,6-tetrahydropyridine | 13 mmol, 1.2 mL | N1CCC=CC1 | C5H9N
reactant | sodium triacetoxyborohydride | 25 mmol, 5.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl N-[2-(3,6-dihydropyridin-1(2H)-yl)ethyl]carbamate | 1.2 g, yield 41% | N1(CCC=CC1)CCNC(OC(C)(C)C)=O | C12H22N2O2
